US07084160B2
N-Cyclopropyl-2,4-difluoro-5-({2-[6-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-thiazol-5-ylmethyl}-amino)-benzamide
A mixture of 5-{[2-(6-bromo-pyridin-2-ylamino)-thiazol-5-ylmethyl]-amino}-N-cyclopropyl-2,4-difluoro-benzamide (96 mg, 0.20 mmol) in neat N-methyl piperazine (0.4 mL) was heated to 120° C. in a sealed tube for 5 h. The reaction mixture was cooled to RT, diluted with methylene chloride (5 mL), and washed with water (2×5 mL). The organic layer was dried over Na2SO4, concentrated, and the residue was purified by silica gel eluted with 2-10% MeOH/CH3Cl to give the title compound (53 mg, 55%) as a light yellow solid. (M+H)+=500.

reactant | 5-{[2-(6-bromo-pyridin-2-ylamino)-thiazol-5-ylmethyl]-amino}-N-cyclopropyl-2,4-difluoro-benzamide | 0.20 mmol, 96 mg | BrC1=CC=CC(=N1)NC=1SC(=CN1)CNC=1C(=CC(=C(C(=O)NC2CC2)C1)F)F | C19H16BrF2N5OS
reactant | N-methyl piperazine | 0.4 mL | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-2,4-difluoro-5-({2-[6-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-thiazol-5-ylmethyl}-amino)-benzamide | 53 mg, 55% | C1(CC1)NC(C1=C(C=C(C(=C1)NCC1=CN=C(S1)NC1=NC(=CC=C1)N1CCN(CC1)C)F)F)=O | C24H27F2N7OS
